US07943669B2
{4-[3-Bromo-5-(3-trifluoromethyl-pyridin-2-yloxy)-phenylsulfanyl]-2-methylphenoxy}-acetic Acid Ethyl Ester
2-(3,5-Dibromo-phenoxy)-3-trifluoromethyl-pyridine (2.05 g; 5.17 mmol) and (4-Mercapto-2-methyl-phenoxy)-acetic acid ethyl ester (0.9 g; 4.0 mmol) was condensed to give the title product applying the procedure described for {4-[3-Bromo-5-cyclopentylmethoxyphenylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl ester. The crude product was purified by flash chromatography (heptane→ethyl acetate:heptane 2:9). Yield 1.26 g (58%). HPLC-MS: m/z: 544.3 (M+2); Rt: 2.77 min.

reactant | 2-(3,5-Dibromo-phenoxy)-3-trifluoromethyl-pyridine | 5.17 mmol, 2.05 g | BrC=1C=C(OC2=NC=CC=C2C(F)(F)F)C=C(C1)Br | C12H6Br2F3NO
reactant | (4-Mercapto-2-methyl-phenoxy)-acetic acid ethyl ester | 4.0 mmol, 0.9 g | C(C)OC(COC1=C(C=C(C=C1)S)C)=O | C11H14O3S
product | {4-[3-Bromo-5-(3-trifluoromethyl-pyridin-2-yloxy)-phenylsulfanyl]-2-methylphenoxy}-acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)OC1=NC=CC=C1C(F)(F)F)Br)C)=O | C23H19BrF3NO4S
